US07525717B2
6-Methyl-N-phenyl-N-pyridin-2-ylpyridin-2-amine
To a flask were added 1.1 g of 2,2′-dipyridylamine and 25 ml of N,N-dimethylformamide. To this mixture were added 0.32 g of 60% sodium hydride in mineral oil in small portions, and after stirring at 10 C for ten minutes, 1.2 g of 2-(chloromethyl)-1-methyl-1H-benzimidazole in 5 ml of N,N-dimethylformamide were added. The reaction mixture was stirred at 22 C for several hours, and then quenched with 40 ml water. The product was extracted with 50 ml ethyl acetate, and then extracted with 30 ml of 1M hydrochloric acid, and basified with 3M sodium hydroxide. Following extraction with 20 ml ethyl acetate, the product was purified by silica gel chromatography using 33% ethyl acetate, 62% hexane, and 5% methanol, resulting in an oil which crystallized on standing. After drying, 0.6 g of a yellow solid remained.

reactant | 2,2′-dipyridylamine | 1.1 g | C1=CC=NC(=C1)NC2=CC=CC=N2 | C10H9N3
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | 2-(chloromethyl)-1-methyl-1H-benzimidazole | 1.2 g | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-N-phenyl-N-pyridin-2-ylpyridin-2-amine | CC1=CC=CC(=N1)N(C1=NC=CC=C1)C1=CC=CC=C1 | C17H15N3
